US06362178B1
110 mg (0.6 mmol) of 3-butylsydnoneimine hydrochoride are dissolved in 2.5 ml of pyridine and cooled to 0° C. 210 mg (0.5 mmol) of 4-ethoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride are added, and the reaction mixture is stirred for 2 hours at 0° C. and overnight at room temperature. The mixture is diluted with dichloromethane, the organic phase is washed with water and dried over sodium sulphate and the solvent is removed under reduced pressure. Chromatography (dichloromethane/methanol) gives 16 mg (6%) of 2-[2-ethoxy-5-(3-butylsydnoneimine)-1-sulphonyl)-phenyl]-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one.

reactant | hydrochoride | Cl | ClH
reactant | 4-ethoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 0.5 mmol, 210 mg | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C17H19ClN4O4S
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | CC=1N=C(N2N=CNC(C21)=O)CCC | C9H12N4O
